US06281353B1
7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide.
22.8 g Ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylate were suspended under stirring and argon atmosphere in 91.2 ml 1,4-dioxane. 14.1 ml Formamide and 13.9 ml sodium methanolate were successively added to yield a clear light-orange solution, which turned to a white suspension after 10 minutes. This suspension was stirred two hours at 30° C. 200 ml Deionized water were added in one portion and 1,4-dioxane was distilled off at 40° C. under reduced pressure. The remaining white suspension was stirred two hours at 0° C. and filtered. The precipitate (7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide) was washed with 50 ml deionized water three times and dried under reduced pressure for 18 hours at 80° C. Crude product:19.43 g as a white powder. m.p. >250° C.

reactant | Ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxylate | 22.8 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14ClN3O3
reactant | Formamide | 14.1 ml | C(=O)N | CH3NO
reactant | sodium methanolate | 13.9 ml | C[O-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | 1,4-dioxane | 91.2 ml | O1CCOCC1 | C4H8O2
product | 7-Chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N)C)=O | C13H11ClN4O2
